US07642381B2
50 g (0.4 mol, 1 eq) of 3-amino-2-methyl-2-cyclohexen-1-one and 106 g (1 ml, 2.5 eq) of sodium carbonate are dispensed into the reactor. 480 mL of MeOH is added. The mixture is cooled in an ice bath to 10° C. A solution of iodine in THF, made by dissolving 253 g (1 mol, 2.5 eq) of iodine in 300 ml of THF, is added to above suspension slowly so that the temperature does not exceed 25° C. The resulting dark suspension is stirred for ˜1 h at room temperature and HPLC shows the ending point of reaction (product area percentage at 265 nm was larger than 70%). To the reaction mixture in the ice bath, is added an aqueous saturated solution of sodium sulfite slowly, until the peroxide level is below 3 ppm (by peroxide test strips), and at same time, the sulfite level is below 50 ppm (by sulfite test strips). Approximately 1.5 q of sodium sulfite is used. The suspension is filtered through a celite pad and the pad is washed with 150 mL×3 of THF (washings not optimized). The combined filtrate and washes are concentrated under vacuum until solid crashes out. 250 mL of MTBE is added and the two layer mixture is concentrated again under vacuum until all upper layer evaporates. 250 mL of MTBE and 100 mL of H2O are added and the mixture is stirred at room temperature for 30 minutes. A dark yellow solid crashes out upon stirring and is filtered and washed with water to give 3-amino-6-iodo-2-methyl-2-cyclohexen-1-one 65 g (65% yield).

reactant | 3-amino-2-methyl-2-cyclohexen-1-one | 0.4 mol, 50 g, 1 eq | NC1=C(C(CCC1)=O)C | C7H11NO
reactant | sodium carbonate | 1 ml, 106 g, 2.5 eq | C([O-])([O-])=O.[Na+].[Na+]
reactant | iodine | II | I2
reactant | iodine | 1 mol, 253 g, 2.5 eq | II | I2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sulfite | S(=O)([O-])[O-]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | MeOH | 480 mL | CO | CH4O
product | 3-amino-6-iodo-2-methyl-2-cyclohexen-1-one | 65 g, 65% yield | NC1=C(C(C(CC1)I)=O)C | C7H10INO
